US07259266B2
8-Benzyl-6-chloro-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid
To a chilled solution of 0.031 g (0.054 mmole) of bis(dibenzylideneacetone) palladium (0) and 0.025 g (0.107 mmol) of tri-2-furylphosphine in 5 mL degassed THF was added 0.500 g (0.535 mmol) of Wang resin 6-chloro-8-iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylate followed by addition of 3.21 mL (1.605 mmol) of a 0.5 M soln of benzylzinc bromide. The reaction mixture was heated to 60° C. overnight. The reaction mixture was transferred and washed as follows: THF (×5), aqueous NH4Cl (×5), H2O (×5), MeOH (×5), and CH2Cl2 (×5). The resin was treated with 2 mL (TFA:CH2CL2, 1:1) for 30 minutes. The filtrate was collected and treatment was repeated. The resin was washed with CH2Cl2 (×2) and all filtrates were combined and concd. The resulting oil was purified using reverse phase chromatography to afford 0.024 g (12%) of a white crystalline solid: 1H NMR (CDCl3/400 MHz) 4.00 (s, 2H), 5.91 (q, 1H, J=7.1 Hz), 7.20 (m, 1H), 7.27 (m, 5H), 7.41 (d, 1H, J=2.5 Hz), 7.87 (s, 1H); 19F NMR (CDCl3/400 MHz) −79.4 (d, 3F, J=6.8 Hz); MS (ES+) 369 (M+1, 100); HRMS (ES−) m/z calcd for (M−H: C18H11O3ClF3) 367.0343, found 367.0333.

reactant | tri-2-furylphosphine | 0.107 mmol, 0.025 g | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | 6-chloro-8-iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylate | ClC=1C=C2C=C(C(OC2=C(C1)I)C(F)(F)F)C(=O)[O-]
reactant | benzylzinc bromide | [Br-].C(C1=CC=CC=C1)[Zn+]
catalyst | bis(dibenzylideneacetone) palladium (0) | 0.054 mmole, 0.031 g | [Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
solvent | THF | C1CCOC1 | C4H8O
product | 8-Benzyl-6-chloro-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 0.024 g, 12% | C(C1=CC=CC=C1)C=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)O)Cl | C18H12ClF3O3
